US07129239B2
Preparation of Intermediate 2-Benzhydryl-5-benzyl-2,5,7-triazaspiro[3.4]oct-6-en-8-one (I-(29A-6)a)
N,N-Dimethylformamide dimethyl acetal (16 ml, 121 mmol) was combined with 1-benzhydryl-3-benzylaminoazetidine-3-carboxylic acid amide (I-(13A-9)b; 3.03 g, 8.16 mmol) and heated to reflux. After 4 hours, the suspension was cooled and extracted from saturated aqueous NaHCO3 with ethyl acetate. The combined extracts were dried (Na2SO4), and concentrated, in vacuo, to the crude solid (3.50 g). Purification of the residue on a Biotage™ Flash 40M column using 0–3% methanol in methylene chloride as eluant afforded I-(29A-6)a as a yellowish solid (1.92 g, 62%): +ES MS (M+1) 382.3; 1H NMR (400 MHz, CD3OD) δ 8.66 (s, 1H), 7.59 (d, J=7.1 Hz, 2H), 7.49–7.11 (m, 13H), 5.12 (s, 2H), 4.44 (s, 1H), 3.31 (d, J=9.6 Hz, 2H), 3.20 (d, J=9.6 Hz, 2H).

reactant | N,N-Dimethylformamide dimethyl acetal | 121 mmol, 16 ml | COC(N(C)C)OC | C5H13NO2
reactant | 1-benzhydryl-3-benzylaminoazetidine-3-carboxylic acid amide | 8.16 mmol, 3.03 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NCC1=CC=CC=C1 | C24H25N3O
product | 2-Benzhydryl-5-benzyl-2,5,7-triazaspiro[3.4]oct-6-en-8-one | 1.92 g, 62% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2(C1)N(C=NC2=O)CC2=CC=CC=C2 | C25H23N3O
